US04435567
A solution of 0.9 g morpholine with 5 ml aceton was added dropwise during 5 minutes to a suspension of 1.5 g phenylcarbamoyl-benzoic acid sulfimide with 20 ml acetone, under stirring. The reaction mixture was stirred for a further 30 minutes at ambient temperature, then diluted with 150 ml water. Acetone was distilled off, the mixture was cooled, and 0.35 g phenylcarbamoyl-morpholine was isolated by filtration. The white crystalline material melted at 160°-162° C.

reactant | morpholine | 0.9 g | N1CCOCC1 | C4H9NO
reactant | aceton | 5 ml | CC(=O)C | C3H6O
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1.5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
product | phenylcarbamoyl-morpholine | 0.35 g | C1(=CC=CC=C1)NC(=O)N1CCOCC1 | C11H14N2O2
